US07465798B2
Intermediate 13: 1-Chloro-3-(3,4-dichlorophenyl)propan-2-one
The organozinc species was generated as described by S. Huo (Organic Letters 2003, 5 (4), 423-5). In a flame-dried 25 mL 2-necked round-bottomed flask, under an inert atmosphere, iodine (65 mg, 0.26 mmol) was taken up in 6 mL anhydrous N,N-dimethylacetamide. Zinc dust (0.502 g, 7.67 mmol) was added, and the suspension stirred until the red color of the iodine disappeared. Then, 3,4-dichlorobenzyl chloride (0.71 mL, 1.0 g, 5.1 mmol) was added via syringe, and the mixture heated at 80° C. until the t.l.c. of a hydrolyzed aliquot (5% ethyl acetate in hexanes, visualized by cerium molybdate staining) showed that the starting material had been consumed. The reaction vessel was placed in a water bath to cool it, and Pd(PPh3)4 (0.118 g, 0.102 mmol) was added, followed by dropwise addition, via syringe, of chloroacetyl chloride (0.61 mL, 0.87 g, 7.7 mmol). The brown suspension was allowed to stir overnight at room temperature. To work up the reaction, 12 mL 1 M HCl was added, and the mixture extracted into ethyl acetate (4×12 mL). The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered, and evaporated. The crude product was purified by flash chromatography over silica gel (1-30% ethyl acetate in hexanes), to give material of sufficient purity to be used in the next step (0.545 g, 45% yield): 1H NMR (400 MHz, CDCl3) δ 3.89 (s, 2H) 4.13 (s, 2H) 7.06 (dd, J=8.2, 2.6 Hz, 1H) 7.33 (d, J=2.0 Hz, 1H) 7.42 (d, J=8.3 Hz, 1H).

reactant | iodine | 0.26 mmol, 65 mg | II | I2
reactant | 3,4-dichlorobenzyl chloride | 5.1 mmol, 0.71 mL, 1.0 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | chloroacetyl chloride | 7.7 mmol, 0.61 mL, 0.87 g | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 1 M, 12 mL | Cl | ClH
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
catalyst | Zinc | 7.67 mmol, 0.502 g | [Zn] | Zn
catalyst | Pd(PPh3)4 | 0.102 mmol, 0.118 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Chloro-3-(3,4-dichlorophenyl)propan-2-one | 45% yield | ClCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H7Cl3O
